US03984467
1-(4-Chlorophenyl)-3-[5-(dimethylamino)pentanimidoyl]urea
Following a procedure similar to that described in Example 33A but using 1.7 g. sodium in 300 ml. dry acetone, 9 g. 5-(dimethylamino)valeramidine dihydrochloride hemihydrate [m.p. 119°-120°C. (from acetonitrile)], and 5.8 g. 4-chlorophenyl isocyanate in 50 ml. dry acetone there was obtained 8.5 g. 1-(4-chlorophenyl)-3-[5-(dimethylamino)pentanimidoyl]urea dihydrochloride; m.p. 199°-200°C. (from isopropyl alcohol).

reactant | sodium | [Na] | Na
reactant | 5-(dimethylamino)valeramidine dihydrochloride hemihydrate | O.Cl.Cl.CN(CCCCC(=N)N)C.CN(C)CCCCC(=N)N.Cl.Cl
reactant | 4-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 1-(4-chlorophenyl)-3-[5-(dimethylamino)pentanimidoyl]urea dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)NC(=O)NC(CCCCN(C)C)=N
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Chlorophenyl)-3-[5-(dimethylamino)pentanimidoyl]urea | ClC1=CC=C(C=C1)NC(=O)NC(CCCCN(C)C)=N | C14H21ClN4O
